US04421927
(Example 3) other nomenclature: ethyl m-(p-chlorocinnamoyl)-cinnamate
12 g (0.055 mole) of the ethyl ester of 3-acetyl-cinnamic acid are dissolved in 120 ml of ethanol. 8 g (0.057 mole) of para-chlorobenzaldehyde are added then 35 ml of anhydrous ethanol saturated with gaseous hydrochloric acid. The reaction medium is stirred for 10 hours.

reactant | 3-acetyl-cinnamic acid | C(C)(=O)C=1C=C(C=CC(=O)O)C=CC1 | C11H10O3
reactant | para-chlorobenzaldehyde | 0.057 mole, 8 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | ethanol | 35 ml | C(C)O | C2H6O
product | ethyl m-(p-chlorocinnamoyl)-cinnamate | ClC1=CC=C(C=CC(=O)C=2C=C(C=CC(=O)OCC)C=CC2)C=C1 | C20H17ClO3
